* POGO block-4 VCA — THAT2180 dB-law SHAPE: equal Ec+ steps -> equal dB steps, unity at Ec+=0
* CLAIM (spec §2 Gain Law; aux/vca/vca-cell/spec.md §THAT 2180 Gain Law; VcaBlock.hpp:26-27):
*   The plugin gain index is exponential: G = 10^(2*(control-1)) = G_dB = 40*(control-1).
*   The hardware THAT2180 realizes this as a true dB-law: G_dB = Ec+/(6.1 mV/dB), i.e. equal
*   Ec+ voltage steps produce EQUAL dB output steps (log-linearity), anchored to UNITY at Ec+=0.
* [NV] DISCIPLINE: the absolute slope (6.1 mV/dB) is an UNMEASURABLE device constant — this deck
*   does NOT assert any absolute mV/dB or absolute dB value as a device validation. The 6.1 mV/dB
*   appears ONLY to PLACE the three test points (Ec+ = 0, −61 mV, −122 mV ≡ 0, −10, −20 dB by the
*   spec's own constant). The LOAD-BEARING assertion is `linearity = db_step2 − db_step1 = 0` — a
*   pure SHAPE check whose ratio CANCELS the constant entirely (a genuinely value-independent test).
*   The only other assertion is the UNITY ANCHOR (Ec+=0 -> G=1), which is true for ANY dB constant.
* Behavioral VCA (justification): Bg out = V(in)*10^(V(ec)/0.0061/20) is the exact dB-law transfer
*   of the THAT2180 (G_dB=Ec+/6.1mV, G=10^(G_dB/20)); it stands in for the translinear cell. We do NOT
*   trust the 0.0061 absolute — we test that EQUAL Ec+ steps give EQUAL dB steps, which holds for any
*   exponential law regardless of the slope value. PARALLEL instances per Ec+ point (no alter-loops).

* drive audio in = 1 V on all three instances
Vin0 in0 0 DC 1
Vin1 in1 0 DC 1
Vin2 in2 0 DC 1

* instance 0: Ec+ = 0 mV   -> G = 1 (unity anchor)
Vec0 ec0 0 DC 0
Bg0  g0 0 V = V(in0)*10**(V(ec0)/0.0061/20)

* instance 1: Ec+ = −61 mV  -> −10 dB by the spec constant (used only to PLACE the point)
Vec1 ec1 0 DC -0.061
Bg1  g1 0 V = V(in1)*10**(V(ec1)/0.0061/20)

* instance 2: Ec+ = −122 mV -> −20 dB by the spec constant
Vec2 ec2 0 DC -0.122
Bg2  g2 0 V = V(in2)*10**(V(ec2)/0.0061/20)

.control
  op
  let g_unity   = v(g0)                       ; DERIVED unity anchor: Ec+=0 -> G=1.0
  let db_step1  = 20*log10(v(g1)/v(g0))       ; ≈ −10 dB (first equal step)
  let db_step2  = 20*log10(v(g2)/v(g1))       ; ≈ −10 dB (second equal step)
  let linearity = db_step2 - db_step1         ; DERIVED 0.0 -> equal dB steps = log-linear (LOAD-BEARING)
  print g_unity db_step1 db_step2 linearity
.endc
.end
